US05306692
6-(2-Chloro-6-fluoro-4-trifluoromethylphenoxy)-indazol-1-ylacetic acid prepared as described in Example 3 (0.319 g) was suspended in dry dichloromethane (6 cm3) and methanol (0.04 cm3) and DMAP (10 mg) added. Dicyclohexylcarbodiimide (0.169 g) was added and the mixture stirred at room temperature for 2 hours and left to stand overnight. The mixture was filtered and the solvent removed from the filtrate under vacuum. The residue was purified by flash chromatography (hexane: TMBE,3:2) to yield methyl 2-[6-(2-chloro-6-fluoro-4-trifluoromethylphenoxy)indazol-1-yl]acetate (0.28 g) as an oil which solidified on standing.

reactant | 6-(2-Chloro-6-fluoro-4-trifluoromethylphenoxy)-indazol-1-ylacetic acid | ClC1=C(OC2=CC=C3C=NN(C3=C2)CC(=O)O)C(=CC(=C1)C(F)(F)F)F | C16H9ClF4N2O3
reactant | methanol | 0.04 cm3 | CO | CH4O
reactant | Dicyclohexylcarbodiimide | 0.169 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 6 cm3 | ClCCl | CH2Cl2
catalyst | DMAP | 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | methyl 2-[6-(2-chloro-6-fluoro-4-trifluoromethylphenoxy)indazol-1-yl]acetate | 0.28 g | ClC1=C(OC2=CC=C3C=NN(C3=C2)CC(=O)OC)C(=CC(=C1)C(F)(F)F)F | C17H11ClF4N2O3
